US03953604
1-(2-Carboxychromon-5-yloxy)-2-Hydroxy-3-p-t-Butylphenoxypropane
A solution of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-t-butylphenoxypropane (14.4 g) in diethyl oxalate (15 ml) was added to a suspension of sodium ethoxide, prepared from sodium (3.0 g) and ethanol (30 ml), in ether (200 ml). The mixture was heated under reflux for 1.5 hours, and the brown-coloured residue was poured onto ice (100 g). After acidification with a solution of acetic acid (12 ml) in water (80 ml), the ether layer was separated, and the aqueous solution extracted with ether (3 × 25 ml). The solvent was then removed from the combined ethereal layer and ethereal extracts. The residue was dissolved in a mixture of acetic acid (80 ml) and hydrochloric acid (30 ml) and heated under reflux for 1 hour. On pouring into water (1 L) 1-(2-carboxychromon-5-yloxy)-3-p-t-butylphenoxypropane, 10.7 g, was obtained as a beige gum.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-t-butylphenoxypropane | 14.4 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)C(C)(C)C)O)C=CC=C1O | C21H26O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 3.0 g | [Na] | Na
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | diethyl oxalate | 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-(2-Carboxychromon-5-yloxy)-2-Hydroxy-3-p-t-Butylphenoxypropane | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)C(C)(C)C)O | C23H24O7
